US06864025B2
N-Tetradecylcarbazole was prepared from carbazole (59.27 g, 0.35 mol), 1-bromotetradecane (100 g, 0.36 mol, commercially available from Aldrich, Milwaukee, Wis.), benzyltriethyl ammonium chloride (4.00 g, 0.018 mol), 50% aqueous NaOH (200 g), and toluene (400 ml) according to the procedure described for N-heptylcarbazole. The product was obtained as 120 g of a brown liquid (93% yield). Upon standing at room temperature overnight, the liquid solidified.

reactant | carbazole | 0.35 mol, 59.27 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 1-bromotetradecane | BrCCCCCCCCCCCCCC | C14H29Br
reactant | NaOH | 200 g | [OH-].[Na+]
reactant | N-heptylcarbazole | C(CCCCCC)N1C2=CC=CC=C2C=2C=CC=CC12 | C19H23N
catalyst | benzyltriethyl ammonium chloride | 0.018 mol, 4.00 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-Tetradecylcarbazole | C(CCCCCCCCCCCCC)N1C2=CC=CC=C2C=2C=CC=CC12 | C26H37N
